US05688805
Dissolved 4-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methyl-1,2,5,6-tetrahydropyridine (0.50 g, 1.5 mmol) in 30 mL of absolute ethanol, and added 1 mL of iodomethane. Refluxed for 1 hour. Cooled to room temperature, and evaporated to a solid. Triturated with ether, and then recrystallized from dichloromethane-ether to give 0.47 g (66% yield) of 4-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-1,1-dimethyl-1,2,5,6-tetrahydropyridinium iodide as a yellow solid.

reactant | 4-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methyl-1,2,5,6-tetrahydropyridine | 1.5 mmol, 0.50 g | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C2=CCN(CC2)C | C24H27N
reactant | iodomethane | 1 mL | IC | CH3I
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-1,1-dimethyl-1,2,5,6-tetrahydropyridinium iodide | 0.47 g, 66% yield | [I-].C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C2=CC[N+](CC2)(C)C | InChI=1S/C25H30N.HI/c1-4-17-25(22-15-18-26(2,3)19-16-22)23-11-7-5-9-20(23)13-14-21-10-6-8-12-24(21)25;/h4-12,15H,1,13-14,16-19H2,2-3H3;1H/q+1;/p-1
